US08278319B2
Stage 3: (S)-tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-2-yl)methoxy)acetate
35% sodium hydroxide solution (10 ml) was added to a cooled (0° C.) solution of (S)-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-2-yl)methanol (3.3 mmol, 1.0 eq) and tetra-n-butylammonium chloride (1.1 mmol, 0.33 eq) in toluene (20 ml). tert-Butylbromoacetate (1.5 eq) was added slowly to this mixture and the mixture was stirred for 2 h at room temperature. The organic phase was separated off and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed with water and saturated sodium chloride solution, dried over Na2SO4 and concentrated to small volume under vacuum. The crude product was processed by column chromatography. Yield: 50%

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | (S)-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-2-yl)methanol | 3.3 mmol, 1.0 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1[C@@H](CC2=CC=CC=C12)CO)C | C18H21NO4S
reactant | tert-Butylbromoacetate | 1.5 eq | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
catalyst | tetra-n-butylammonium chloride | 1.1 mmol, 0.33 eq | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-2-yl)methoxy)acetate | Yield: 50% | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1[C@@H](CC2=CC=CC=C12)COCC(=O)OC(C)(C)C)C | C24H31NO6S
